US07687664B2
t-Butyl N-[2-(benzyloxy)-5-bromobenzyl]carbamate
[2-(Benzyloxy)-5-bromophenyl]methanol (140.3 g) was dissolved in 700 ml of toluene, 160 g of diphenyl phosphorazide and 85 g of diazabicyclodecene were successively added to the solution, and the mixture was stirred overnight at room temperature. 1 L of ethyl acetate was added thereto, and the reaction mixture was successively washed with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed to give 157 g of 1-[2-(benzyloxy)-5-bromobenzyl]-1,2-triazadien-2-ium. 47.23 g of the product was dissolved in 500 ml of tetrahydrofuran and 20 ml of water, 42 g of triphenyl phosphine was added thereto, and the mixture was stirred overnight. 28 g of t-butyl dicarbonate was added thereto and stirred at room temperature for 1 hour, and 3 ml of 30% aqueous hydrogen peroxide was added thereto. The solvent was concentrated and the residue was suspended in diethyl ether and filtered. The filtrate was evaporated, and the residue was purified by silica gel column, to give 47.645 g of the title compound in the 15:1→10:1 hexane-ethyl acetate fraction.

reactant | [2-(Benzyloxy)-5-bromophenyl]methanol | 140.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CO | C14H13BrO2
reactant | diphenyl phosphorazide | 160 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | diazabicyclodecene | 85 g | C1(=NNCCCCCCC1)C1=CCCCCCCCC1 | C18H32N2
reactant | triphenyl phosphine | 42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | t-butyl dicarbonate | 28 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | hydrogen peroxide | 3 ml | OO | H2O2
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | t-Butyl N-[2-(benzyloxy)-5-bromobenzyl]carbamate | 47.645 g | C(C1=CC=CC=C1)OC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)Br | C19H22BrNO3
